US08461365B2
(13-3) Synthesis of 2-(2-(5-methylfuryl)-4-(4-methoxyphenyl)-5-methylindene
Solution of 2-methylfuran (1.9 g, 23 mmol) in absolute DME was cooled at −70° C., and solution of n-butyllithium in n-hexane (1.66 M, 14 mL) was dropped. Reaction solution was stirred for 3 hours at low temperature of about −30° C. as it was, subsequently, triisopropyl borate (5.9 mL, 25.5 mmol) was added, and reaction solution was stirred at room temperature day and night. After stirring, distilled water (5 mL) was added to hydrolyze, and aqueous solution (20 mL) of sodium carbonate (4.8 g, 45 mmol), crude product of 2-bromo-4-(4-methoxyphenyl)-5-methylindene synthesized in the above, further, tetrakis(triphenylphosphino)palladium (0.6 g) were added, and heated for 2.5 hours under reflux. Water was added to the reaction solution to separate organic layer, organic layer was filtered through Celite, and washed with saturated solution of sodium chloride, and dried over magnesium sulfate, and solvent was distilled off under reduced pressure.

reactant | 2-methylfuran | 23 mmol, 1.9 g | CC=1OC=CC1 | C5H6O
reactant | n-butyllithium | C(CCC)[Li]
reactant | triisopropyl borate | 25.5 mmol, 5.9 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | sodium carbonate | 45 mmol, 20 mL, 4.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-bromo-4-(4-methoxyphenyl)-5-methylindene | BrC=1CC2=CC=C(C(=C2C1)C1=CC=C(C=C1)OC)C | C17H15BrO
solvent | DME | COCCOC | C4H10O2
solvent | n-hexane | 1.66 M, 14 mL | CCCCCC | C6H14
catalyst | tetrakis(triphenylphosphino)palladium | 0.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | Water | O | H2O
product | 2-(5-methylfuryl)-4-(4-methoxyphenyl)-5-methylindene | CC1=CC=C(O1)C=1CC2=CC=C(C(=C2C1)C1=CC=C(C=C1)OC)C | C22H20O2
